US05462940
1-[[[5-(4-Chlorophenyl)-2-furanyl]methylene]amino-3-[4-(4-methyl-1-piperazinyl)butyl]-2,4-imidazolidinedine, a free-base, is prepared as described hereinbelow. The dihydrochloride salt, 1-[[[5-(4-Chlorophenyl)-2-furanyl]methylene]amino]-3-[4-(4-methyl-1-piperazinyl)butyl]-2,4 imidazolidinedione dihydrochloride, (6.56 g, 0.0124 mole) prepared as described in Example A herein, is dissolved in H2O (300 ml) and washed with (1×100 ml). The aqueous phase is made basic with saturated NaHO3 solution. The resulting mixture is extracted with CH2Cl2 (4×100 ml). The extract is washed with saturated NaCl (2×50 ml), dried over MgSO4 (activated charcoal), filtered and concentrated under reduced pressure to a solid residue. This solid is triturated in anhydrous ether, collected and air-dried. Recrystallization once from absolute EtOH and then from toluene (activated charcoal), next washing with anhydrous ether and air drying gives 2.05 g (0.0045 mole) of 1-[[[5-(4-chlorophenyl)-2-furanyl]methylene]amino]-3-[4-(4-methyl-1-piperazinyl)butyl]-2,4-imidazolidinedione.

reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
reactant | 1-[[[5-(4-Chlorophenyl)-2-furanyl]methylene]amino]-3-[4-(4-methyl-1-piperazinyl)butyl]-2,4 imidazolidinedione dihydrochloride | 0.0124 mole, 6.56 g | Cl.Cl.ClC1=CC=C(C=C1)C1=CC=C(O1)C=NN1C(N(C(C1)=O)CCCCN1CCN(CC1)C)=O
solvent | H2O | 300 ml | O | H2O
product | 1-[[[5-(4-chlorophenyl)-2-furanyl]methylene]amino]-3-[4-(4-methyl-1-piperazinyl)butyl]-2,4-imidazolidinedione | 0.0045 mole, 2.05 g | ClC1=CC=C(C=C1)C1=CC=C(O1)C=NN1C(N(C(C1)=O)CCCCN1CCN(CC1)C)=O | C23H28ClN5O3
